US07410981B2
Ethyl 2-(methylamino)ethyl carbonate hydrochloride
To a mixture of tert-butyl 2-hydroxyethyl (methyl) carbamate (1.75 g) obtained in Reference Example 1 and ethyl acetate (20 mL) were added pyridine (0.97 mL) and 4-dimethylaminopyridine (catalytic amount), and ethyl chlorocarbonate (1.25 mL) was dropwise added. The mixture was stirred overnight at room temperature and ethyl acetate (50 mL) was added. The mixture was washed with water (50 mL), a 5% aqueous citric acid solution (50 mL) and saturated brine (50 mL), and dried over anhydrous magnesium sulfate. After concentration under reduced pressure, a 4N hydrogen chloride-ethyl acetate solution (10 mL) was added to the residue. After stirring at room temperature for 2 hrs., diethyl ether (10 mL) was added, and the precipitated solid was collected by filtration. The solid was dried under reduced pressure to give the title compound (1.66 g) as a white solid.

reactant | pyridine | 0.97 mL | N1=CC=CC=C1 | C5H5N
reactant | ethyl chlorocarbonate | 1.25 mL | C(OCC)(=O)Cl | C3H5ClO2
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
reactant | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | Ethyl 2-(methylamino)ethyl carbonate hydrochloride | 1.66 g | Cl.C(OCC)(OCCNC)=O | InChI=1S/C6H13NO3.ClH/c1-3-9-6(8)10-5-4-7-2;/h7H,3-5H2,1-2H3;1H
